US07737166B2
7-Fluoro-5-methyl-2-(4-methyl-3-oxopiperazin-1-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-188)
Diisopropylethylamine (232 μl, 1.36 mmol) and 1-methylpiperazin-2-one hydrochloride (103 mg, 0-682 mmol) were added to a dichloromethane (6 ml) solution of 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (163 mg, 0.569 mmol), followed by stirring at room temperature for 30 minutes. Chloroform (50 ml) was added to the reaction liquid, followed by washing with saturated brine (50 ml). After drying over anhydrous sodium sulfate and concentration under reduced pressure, the resulting residue was purified by silica gel column chromatography (eluent, chloroform:methanol=20:1) to obtain the entitled compound (207 mg, 99.9%) as a colorless solid.

reactant | Diisopropylethylamine | 1.36 mmol, 232 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methylpiperazin-2-one hydrochloride | 0-682 mmol, 103 mg | Cl.CN1C(CNCC1)=O
reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
reactant | 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.569 mmol, 163 mg | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
solvent | Chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Fluoro-5-methyl-2-(4-methyl-3-oxopiperazin-1-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile | 207 mg, 99.9% | FC=1C(=C(C(=C2N=C(OC21)N2CC(N(CC2)C)=O)C#N)C)C2=CC=CC=C2 | C20H17FN4O2
